US04471139
2-Acetoxy-3-Oxobutylmercaptoacetaldehyde Dimethylacetal
To a solution of 15 g. (0.123 mol) of 2-mercaptoacetaldehyde dimethylacetal in 150 ml. of methanol was added 225 mg. of K2CO3 and 15.8 g. (0.123 mol) of 3-acetoxy-3-buten-2-one. After 2 hours at ambient temperature, the solvent was removed in vacuo, the oily residue dissolved in ether, washed with water and dried over Na2SO4. Filtration and removal of solvent in vacuo afforded 24.9 g. (81%) of the crude product: 1H-NMR (CDCl3) delta 2.15 (s, 3), 2.19 (s, 3), 2.74 (d, 2, J=5.4 Hz), 3.03 (m, 2), 3.34 (s, 6), 4.50 (t, 1, J=5.4 Hz), 5.22 (d of d, 1); 13C-NMR (CDCl3) delta 203.5 (s), 169.7 (s), 104.6 (d), 77.5 (d), 53.5 (q), 53.3 (q), 34.5 (d), 32.4 (t), 26.6 (q), 20.3 (q); mass spectrum (70 eV) m/e 250.0855 (parent, calcd. for C10H18O5S; 250.1134); IR (film) cm1 1747 (s), 1733 (s).

reactant | 2-mercaptoacetaldehyde dimethylacetal | 0.123 mol | COC(CS)OC | C4H10O2S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-acetoxy-3-buten-2-one | 0.123 mol | C(C)(=O)OC(C(C)=O)=C | C6H8O3
reactant | methanol | CO | CH4O
product | 2-Acetoxy-3-Oxobutylmercaptoacetaldehyde Dimethylacetal | COC(C(OC(C)=O)SCCC(C)=O)OC | C10H18O5S
